US05043327
A mixture of 26.7 parts of ethyl N-[[5-(4-methylbenzoyl)-2-nitrophenyl]methyl]glycine (which is a precursor to intermediate 50 in Example 9), 6.25 parts of hydroxylamine monohydrochloride, 5.25 parts of potassium fluoride and 395 parts of ethanol was stirred for 22 hours at reflux temperature. The reaction mixture was evaporated and the residue was dissolved in ethyl acetate. The whole was washed with sodium hydrogen carbonate solution 10% and with water. The organic layer was dried, filtered and evaporated and the residue was purified by column chromatography (silica gel; CH2Cl2 /CH3OH 98:2). The eluent of the E- and Z-isomer fractions was evaporated and the residue was crystallized from 2,2'-oxybispropane, yielding 3.7 parts of product. The mother liquor was evaporated and the residue was isomerized in a mixture of 1,4-dioxane and 2-propanol, saturated with HCl, by stirring overnight. The solvent was evaporated and the residue was stirred in water. After neutralizing with NaHCO3 10%, the product was extracted with dichloromethane. The extract was dried, filtered and evaporated and the residue was crystallized from 2,2'-oxybispropane, yielding 2 additional fractions of resp. 3.6 parts and 1.2 parts of product. The three fractions were recrystallized from a mixture of ethyl acetate and 2,2'-oxybispropane, yielding 5.3 parts (19%) of ethyl (E)-N-[[5-[(hydroxyimino) (4-methylphenyl)methyl]-2-nitrophenyl]methyl]glycine (interm. 57).

reactant | ethyl N-[[5-(4-methylbenzoyl)-2-nitrophenyl]methyl]glycine | C(C)N(CC(=O)O)CC1=C(C=CC(=C1)C(C1=CC=C(C=C1)C)=O)[N+](=O)[O-] | C19H20N2O5
reactant | hydroxylamine monohydrochloride | Cl.NO
reactant | potassium fluoride | [F-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl (E)-N-[[5-[(hydroxyimino) (4-methylphenyl)methyl]-2-nitrophenyl]methyl]glycine | 19% | C(C)N(CC(=O)O)CC1=C(C=CC(=C1)/C(/C1=CC=C(C=C1)C)=N/O)[N+](=O)[O-] | C19H21N3O5
